US06774130B2
To a stirring suspension of (R)-1-(5-hydroxyhexyl)-7-ethoxymethyl-8-mercapto-3-methylxanthine (62.0 mg, 0.174 mmol) and potassium carbonate (42 mg, 0.30 mmol) in acetonitrile (3.4 ml) was added methyl iodide (44 mg, 0.3 mmol). The reaction mixture was stirred at room temperature for 3 hours. After evaporation of the solvent under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (3:1) to provide (R)-7-ethoxymethyl-1-(5-hydroxyhexyl)-3-methyl-8-methylsulfanylxanthine (58 mg, 89% yield) as a white solid.

reactant | (R)-1-(5-hydroxyhexyl)-7-ethoxymethyl-8-mercapto-3-methylxanthine | 0.174 mmol, 62.0 mg | O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)COCC)S)C)C | C15H24N4O4S
reactant | potassium carbonate | 0.30 mmol, 42 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.3 mmol, 44 mg | CI | CH3I
solvent | acetonitrile | 3.4 ml | C(C)#N | C2H3N
product | (R)-7-ethoxymethyl-1-(5-hydroxyhexyl)-3-methyl-8-methylsulfanylxanthine | 58 mg, 89% yield | C(C)OCN1C(=NC=2N(C(N(C(C12)=O)CCCC[C@@H](C)O)=O)C)SC | C16H26N4O4S
